US05750531
Synthesis of 6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-fluorophenylamino)pyrimidine hydrochloride
After 4-fluoroaniline(0.8 ml, 8.4 mmol) was added to a mixture solution of 6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.5 g, 5.5 mmol) and dimethylformamide (10 ml), 1.5 g of the title compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoroaniline | 8.4 mmol, 0.8 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 5.5 mmol, 1.5 g | CC1=CC(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-methyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-(4-fluorophenylamino)pyrimidine hydrochloride | 1.5 g, Yield: 70.7% | Cl.CC1=CC(=NC(=N1)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C21H21FN4.ClH/c1-14-13-20(25-21(23-14)24-18-9-7-17(22)8-10-18)26-12-11-16-5-3-4-6-19(16)15(26)2;/h3-10,13,15H,11-12H2,1-2H3,(H,23,24,25);1H
